US07851469B2
a) 6-{4-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester
As described for Example 4, 3-(4-chloro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole (700 mg, 2.2 mmol) instead of 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole was converted, using methyl 6-chloronicotinate instead of 4-fluorobenzotrifluoride, to the title compound (750 mg, 75%) which was obtained as a white solid. MS: m/e=449.0 [M+H]+.

reactant | 3-(4-chloro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | 2.2 mmol, 700 mg | ClC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C(F)(F)F | C13H7ClF3N3O
reactant | methyl 6-chloronicotinate | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
product | 6-{4-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester | 750 mg, 75% | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)Cl)=O | C20H12ClF3N4O3
